US04318917
2,3-Diphenyl-5-[2,2,2-trifluoro-1-(trifluoromethyl)-ethyl]-1H-pyrrole
To a solution of 2.2 g (0.01 mole) of 2,3-diphenyl-1H-pyrrole in 50 ml ether at -78° under nitrogen were added 3.64 g (0.01 mole) of 2,2,4,4-tetrakis(trifluoromethyl)-1,3-dithietane and 0.26 g (0.001 mole) of triphenylphosphine. The reaction mixture was stirred at -78° for one hour, then allowed to warm to room temperature. The tlc indicated very little reaction, so the ether solvent was removed by distillation, gradually adding toluene to replace it. The toluene solution was then heated at reflux for 1.5 hours. Then additional amounts of the dithietane (3.64 g) and triphenylphosphine (0.26 g) in 1 ml toluene were added and the mixture was heated at reflux overnight. The mixture was concentrated on a rotary evaporator and the residue was purified first by column chromatography on 400 g silica gel (eluting with 60/40 hexane/toluene) then by preparative HPLC to give, after recrystallization from hexane, 0.5 g (14%) of 2,3-diphenyl-5-[ 2,2,2-trifluoro-1-(trifluoromethyl)ethyl]-1H-pyrrole, m.p. 112°-114°. The ir and nmr (proton and fluorine) were consistent with the assigned structure.

reactant | 2,3-diphenyl-1H-pyrrole | 0.01 mole, 2.2 g | C1(=CC=CC=C1)C=1NC=CC1C1=CC=CC=C1 | C16H13N
reactant | 2,2,4,4-tetrakis(trifluoromethyl)-1,3-dithietane | 0.01 mole, 3.64 g | FC(C1(SC(S1)(C(F)(F)F)C(F)(F)F)C(F)(F)F)(F)F | C6F12S2
reactant | triphenylphosphine | 0.001 mole, 0.26 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | ether | 50 ml | CCOCC | C4H10O
product | 2,3-Diphenyl-5-[2,2,2-trifluoro-1-(trifluoromethyl)-ethyl]-1H-pyrrole | C1(=CC=CC=C1)C=1NC(=CC1C1=CC=CC=C1)C(C(F)(F)F)C(F)(F)F | C19H13F6N
